US06825191B2
Step 2: Synthesis of 8-methanesulfonyloxymethyl-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
450 mg (0.87 mmol) of 8-hydroxymethyl-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 5 ml of dichloromethane. 0.18 ml (1.31 mmol) of triethylamine and 0.08 1 ml (1.05 mmol) of methanesulfonyl chloride were added to the obtained solution under cooling with ice, and the obtained mixture was stirred for 2 hours. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the crude product was obtained.

reactant | 8-hydroxymethyl-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 0.87 mmol, 450 mg | OCC=1C=CC2=C(N(C(CN(C2)C(C2=CC=C(C=C2)Cl)=O)=O)CC2=CC=C(C=C2)C(=O)N2CC=CC2)C1 | C29H26ClN3O4
reactant | triethylamine | 1.31 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 8-methanesulfonyloxymethyl-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | CS(=O)(=O)OCC=1C=CC2=C(N(C(CN(C2)C(C2=CC=C(C=C2)Cl)=O)=O)CC2=CC=C(C=C2)C(=O)N2CC=CC2)C1 | C30H28ClN3O6S
